US05563141
3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoic acid
In a similar manner to that described in Example 103, ethyl 3-(1-benzyloxycarbonylpiperidin-4-yl)propanoate was converted to ethyl 3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoate. The following intermediates were isolated: ethyl-1-bromoacetylpiperidin-4-ylpropanoate. NMR(CDCl3): δ, 1.1-1.4(2H,m); 1.25(3H,t); 1.5-1.7(3H,m); 1.7-1.9(2H,t); 2.3(2H,t); 2.5-2.7(1H,td); 3.0-3.2(1H,td); 3.8-4.0(2H,d +1H,m); 4.15(2H,q); 4.55(1H,m); m/e 306/308(M+H)+, ethyl 3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoate. m.p. 90°-92° C.; NMR(d6DMSO): δ, 0.85-1.0(1H,m); 1.05-1.2(1H,m); 1.2(3H,t); 1.5(3H,m); 1.7(2H,m); 2.3(2H,t); 2.5(4H,br.s); 2.8-3.0(1H,t); 3.1(1H,d); 4.05(2H,q+1H,m); 4.3(1H,d); 6.8(2H,d); 8.15(2H,d); m/e 389 (M+H)+ 411 (M+Na)+ ; calculated for C21H32N4O3 ; C, 64.9; H, 8.3; N, 14.4; found: C, 65.0; H, 8.5; N, 14.4%.

reactant | ethyl 3-(1-benzyloxycarbonylpiperidin-4-yl)propanoate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)OCC | C18H25NO4
reactant | ethyl 3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoate | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1CCC(CC1)CCC(=O)OCC | C21H32N4O3
product | 3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoic acid | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1CCC(CC1)CCC(=O)O | C19H28N4O3
